US06479495B1
Morpholine-4-carboxylic Acid 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl]phenyl Ester Hydrochloride
To a solution of 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl)phenol (1.5 g) and cesium carbonate (1.6 g) in 25% acetonitrile/dichloromethane was added 4-morpholinecarbonyl chloride (1.4 g), with stirring, under nitrogen. The reaction mixture was stirred for 18 hrs under nitrogen, diluted with ethyl acetate, and the layers were separated. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was flash chromatographed (silica), eluting with 2% methanoludichloromethane. The appropriate fractions were collected and concentrated. The residue was dissolved in ethyl acetate and ethereal hydrochloride was added. The precipitate was collected and recrystallized from ethyl ethanol/ether to give 0.9 g (75%) of product, mp 185-186° C.

reactant | 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl)phenol | 1.5 g | COC1=C(C=CC(=C1)CCN1CCN(CC1)C1=NC=CC=C1)O | C18H23N3O2
reactant | cesium carbonate | 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-morpholinecarbonyl chloride | 1.4 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | acetonitrile dichloromethane | C(C)#N.ClCCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Morpholine-4-carboxylic Acid 2-methoxy-4-[2-(4-pyridin-2-yl-piperazin-1-yl)ethyl]phenyl Ester Hydrochloride | 0.9 g, 75% | Cl.COC1=C(C=CC(=C1)CCN1CCN(CC1)C1=NC=CC=C1)OC(=O)N1CCOCC1 | InChI=1S/C23H30N4O4.ClH/c1-29-21-18-19(5-6-20(21)31-23(28)27-14-16-30-17-15-27)7-9-25-10-12-26(13-11-25)22-4-2-3-8-24-22;/h2-6,8,18H,7,9-17H2,1H3;1H
